* ============================================================================
* FDS4559 - COMPARATIVE GATE DEAD-TIME MARGIN TEST, 10 V vs 4.5 V
*
* Purpose:
*   Compare the gate-transition non-overlap margin at the two gate voltages
*   used by the library tests.  Two otherwise identical half bridges run in
*   parallel at 400 kHz and +25 C while commanded dead time is stepped through
*   500 / 100 / 50 / 40 / 35 / 30 / 25 / 20 / 15 / 10 / 5 / 0 ns.
*
* This is model characterization, not a datasheet guarantee.  The datasheet
* specifies neither minimum dead time nor maximum PWM frequency.  The model
* also omits driver impedance, PCB/package parasitics and electrothermal rise.
*
* Gate margin definition:
*   P->N: time from P-gate VSG falling through 1 V to N-gate VGS rising
*         through 1 V.
*   N->P: time from N-gate VGS falling through 1 V to P-gate VSG rising
*         through 1 V.
*   Positive = conservative non-overlap at the datasheet minimum VGS(th).
*   Negative = both gates exceed 1 V at once: potential channel overlap.
*
* It is intentionally not called a measured shoot-through current.  Negative
* margin is a warning that a real driver/application must be checked with its
* own parasitics, current waveform, load and thermal model.
* ============================================================================

.param VBUS=30
.param ILOAD=1
.param RGEN=6
.param FSW=400k
.param TJ=25
.param CORNER=1

.param DTNS={if(CORNER==1,500,if(CORNER==2,100,if(CORNER==3,50,if(CORNER==4,40,if(CORNER==5,35,if(CORNER==6,30,if(CORNER==7,25,if(CORNER==8,20,if(CORNER==9,15,if(CORNER==10,10,if(CORNER==11,5,0)))))))))))}
.param DEADTIME={DTNS*1n}
.param TPER={1/FSW}
.param TON={TPER/2-DEADTIME}
.param TSTART={TPER}
.param RLOAD={VBUS/(2*ILOAD)}
.param TMAX=5n

.step param CORNER list 1 2 3 4 5 6 7 8 9 10 11 12

V_CORNER corner_echo 0 {CORNER}
V_DT_ECHO dt_echo 0 {DTNS}

* --- 10-V bridge ------------------------------------------------------------
V_BUS10  vb10 0 {VBUS}
V_REF10  vr10 0 {VBUS/2}
V_GP10   vb10 pdrv10 PULSE(0 10 {TSTART} 1n 1n {TON} {TPER})
R_GP10   pdrv10 pg10 {RGEN}
V_GN10   ndrv10 0 PULSE(0 10 {TSTART+TPER/2} 1n 1n {TON} {TPER})
R_GN10   ndrv10 ng10 {RGEN}
M_P10    sw10 pg10 vb10 vb10 FDS4559_P temp={TJ}
M_N10    sw10 ng10 0 0 FDS4559_N temp={TJ}
R_LOAD10 sw10 vr10 {RLOAD}

* --- 4.5-V bridge -----------------------------------------------------------
V_BUS45  vb45 0 {VBUS}
V_REF45  vr45 0 {VBUS/2}
V_GP45   vb45 pdrv45 PULSE(0 4.5 {TSTART} 1n 1n {TON} {TPER})
R_GP45   pdrv45 pg45 {RGEN}
V_GN45   ndrv45 0 PULSE(0 4.5 {TSTART+TPER/2} 1n 1n {TON} {TPER})
R_GN45   ndrv45 ng45 {RGEN}
M_P45    sw45 pg45 vb45 vb45 FDS4559_P temp={TJ}
M_N45    sw45 ng45 0 0 FDS4559_N temp={TJ}
R_LOAD45 sw45 vr45 {RLOAD}

.lib ../FDS4559_N.txt
.lib ../FDS4559_P.txt
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.tran 0 {TSTART+2*TPER} 0 {TMAX}

.save V(corner_echo) V(dt_echo) V(vb10) V(pg10) V(ng10) V(sw10) V(vb45) V(pg45) V(ng45) V(sw45)

.meas TRAN ECHO_CORNER AVG V(corner_echo)
.meas TRAN ECHO_DT_NS  AVG V(dt_echo)

* Output reach remains diagnostic in this intentionally boundary-seeking test.
.meas TRAN DT10_SW_MAX MAX V(sw10)
.meas TRAN DT10_SW_MIN MIN V(sw10)
.meas TRAN DT45_SW_MAX MAX V(sw45)
.meas TRAN DT45_SW_MIN MIN V(sw45)

* Fixed TD gates isolate one commutation without stepped FROM/TO expressions:
*   P->N occurs after 3 us; N->P occurs after 4 us.
* RISE/FALL counts therefore restart inside the intended half-cycle.  QPOST
* can still return a negative interval; that is the useful overlap indication.
.meas TRAN DT10_PN_MARGIN TRIG V(vb10,pg10)=1 TD=3u FALL=1 TARG V(ng10)=1 TD=3u RISE=1
.meas TRAN DT10_NP_MARGIN TRIG V(ng10)=1 TD=4u FALL=1 TARG V(vb10,pg10)=1 TD=4u RISE=1
.meas TRAN DT45_PN_MARGIN TRIG V(vb45,pg45)=1 TD=3u FALL=1 TARG V(ng45)=1 TD=3u RISE=1
.meas TRAN DT45_NP_MARGIN TRIG V(ng45)=1 TD=4u FALL=1 TARG V(vb45,pg45)=1 TD=4u RISE=1

.plot V(sw10) V(sw45)
.plot V(vb10,pg10) V(ng10) V(vb45,pg45) V(ng45)
.end
